US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate (0.32 g, 0.63 mmol) was reacted with morpholine-2-carboxylic acid hydrochloride (0.13 g, 0.75 mmol) according to the procedure as described in Example 3 to give the title compound as a pale yellow solid (0.15 g, 42%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.63 mmol, 0.32 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)N1N=C(N=C1)C#N | C17H13Br2FN6O2
reactant | morpholine-2-carboxylic acid hydrochloride | 0.75 mmol, 0.13 g | Cl.N1CC(OCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 0.15 g, 42% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)N1N=C(N=C1)C#N)CN1CC(OCC1)C(=O)O)C(=O)OCC | C22H21BrFN7O5
